US07612114B2
6-{2-{Ethyl[4-(2-piperidin-1-ylethoxy)benzyl]amino}-4-methoxyphenyl}-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol
Synthesized from {2-[2-(tert-butyldimethylsilyloxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-5-methoxyphenyl}ethylamine and 4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 152, {2-[2-(tert-butyldimethylsilyloxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-5-methoxyphenyl}ethyl[4-(2-piperidin-1-ylethoxy)benzyl]amine (481 mg) was used according to an analogous synthetic method to Example 325 described below to provide the title compound (357 mg).

reactant | {2-[2-(tert-butyldimethylsilyloxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-5-methoxyphenyl}ethylamine | [Si](C)(C)(C(C)(C)C)OC=1C=CC2=C(CCCC(C2)C2=C(C=C(C=C2)OC)CCN)C1 | C26H39NO2Si
reactant | 4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride | Cl.N1(CCCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | {2-[2-(tert-butyldimethylsilyloxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-5-methoxyphenyl}ethyl[4-(2-piperidin-1-ylethoxy)benzyl]amine | 481 mg | [Si](C)(C)(C(C)(C)C)OC=1C=CC2=C(CCCC(C2)C2=C(C=C(C=C2)OC)N(CC2=CC=C(C=C2)OCCN2CCCCC2)CC)C1 | C40H58N2O3Si
product | 6-{2-{Ethyl[4-(2-piperidin-1-ylethoxy)benzyl]amino}-4-methoxyphenyl}-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol | 357 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC2=C(CCC1)C=C(C=C2)O)CC2=CC=C(C=C2)OCCN2CCCCC2 | C34H44N2O3
